data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6869,"O=S(=O)(O)[O-:1].[NH3+]C(O)(C1CCCCC1)[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9535,"CCOC1([OH+:1][H:2])CCCC1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8432,"C=CCC1(C[CH:1]=[C:2](C)[O-:3])C(=O)CCCC1=O.[H:4][OH:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7711,"C#CCCC1(CC([Si](C)(C)C)[C:1]([CH2:2][H:3])=[O:4])C(=O)CCC1C.C[O-:5].[OH][K]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,4342,"C=C[CH:1]([B-:2]1([CH2:3][Si](C)(C)C)OC2CC3CC(C3(C)C)C2(C)O1)[Cl:4].[Cl-].[Li+].[Mg+][Br]|((2, 3), 1);((1, 4), 4)"
train,pmechdb_split_0,0,4404,"CCOC(=O)[N+:1]1=[CH:2]C=CCC1.C[Si](C)(C)C[CH:3]=[CH2:4].[OH][Sn-]([Cl])([Cl])([Cl])[Cl]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9545,"CC(=O)[O-:1].COC1=CC=C(Br)C(C(=O)N2CCC3=CC4=C(C=C3C([O+:2](I3(OC(C)=O)(OC(C)=O)OC(=O)C5=C3C=CC=C5)[H:3])CC2)OCO4)=C1OC|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5263,"CC[OH:1].C[C:2](C)([H:3])[C+:4]1CCCC1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,6113,"CCCCCCCCCCCCOC1=CC=C(C(=O)[O-:1])C=C1.CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O+:2](C1CCC2(C)C(CCC3C2CCC2(C)C(C(C)CCCC(C)C)CCC32)C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10147,"C[Si-:1]1(C)(C)CC[O:2]1|((1, 2), 2)"
train,pmechdb_split_0,0,9245,"[BH3-][P+](C)(C)[CH2-:1].[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2340,"COP(=O)(OC)[C:1](=[N+]=[N-])[C:2](C)(C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7073,"CC[CH:1]([C:2](C)=[CH:3][O-:4])[OH:5]|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,3447,"C[NH:1]C1=CC=CC=C1.[N:2]#[O+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4674,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC[O+:1]=[C:2](CN)C1=CN=CC=C1.CC[OH:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9305,"CC(=O)[O-:1].CC1=CC=C(C2=CC(C3=CC=C(C)N3)=CC(C3(O)CC=C(C)[NH+:2]3[H:3])=C2)N1.O.O=C[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3278,"CC(=O)O.COC1=C(C)C=C2OC3C(=O)[O:1][C:2](C)([O-:3])OC3(C)C2=C1.[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1281,"C[C:1]1=[S+:2]CCS1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4514,"C[C:1]1([CH3:2])CCC[CH+:3]1|((1, 2), 3)"
train,pmechdb_split_0,0,9257,"C[S+:1](C)Cl.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,785,"CC(C)(C)OC(=O)NCC(=O)[O-].CC(C)N[C:1](=[NH+:2]C(C)C)[O:3][C:4](CNC(=O)OC(C)(C)C)([N+]1=CC=C(N(C)C)C=C1)[O-:5].CCC1(O)C(=O)OCC2=C1C=C1C3=C(C=C4C=CC=CC4=N3)CN1C2=O.CN(C)C1=CC=NC=C1|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4637,"CC(=O)O.COCC1C(C)CC(OC)CC(C)C[CH:1]([O:2]S(=O)(=O)C2=CC=C(C)C=C2)CC1CNC(C)=O|((1, 2), 2)"
train,pmechdb_split_0,0,9368,"C=CCC([OH+][Ti:1]([Cl])([Cl])[Cl])C1(C)C2=C(OC1C)C(Br)=CC=C2O[Si](C(C)C)(C(C)C)C(C)C.C[Si](C)(C)Cl.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,63,"COCC[CH:1]=[CH2:2].[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3488,"CO[C:1](O)=[NH2+:2].C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,172,"[Li][P:1](C)(C)(C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,84,"CC=CC[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4527,"CS(=O)(=O)OC12CCC3([O:1][H:2])C(CCC13)C2.[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5006,"C=CC(=O)OC.C=CC(=O)OCC.CC(C)(C)[O-:1].N#C[CH:2](C1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8613,"C=CC(=O)[NH:1][H:2].CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3931,"FC1=C(C=[N+:1](C2=CC=CC=C2)[H:2])C=CC=C1.NC1=CC=CC=C1.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,533,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCO.CCOC(=O)C(C[C:1](C1=CC=CO1)=[O:2])=N[NH:3]C1=CC(C#N)=CC=C1.[OH3+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4852,"CC(=O)[O-:1].COC(=O)CC(C)(O)[N+:2](C)(CC1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6931,"C1CO[CH:1]=[CH:2]C1.O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,412,"C[NH+:1](C)[H:2].C[Si-](C)(C)(Cl)[N:3](C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,304,"S[CH+:1][NH2:2]|(2, 1)"
train,pmechdb_split_0,0,5634,"CC[NH+](CC)CC.O=[N+]([O-])C1=C(Cl)N=C2C=CC=CC2=C1O[P:1](Cl)(Cl)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7745,"CC[O-:1].N#CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8198,"CC(=O)CC[C:1](C)=[O:2].CC(=O)O.OCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7560,"CCNC(O)=CC[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4130,"C[O:1][H:2].N#CC1([O-:3])CCCOC12CCCC2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2263,"CS(=O)(=O)[O+:1](C)[H:2].C[N:3](C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5544,"CCO[C:1](CCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9505,"CCCCCCC1CC2(OC(C)=O)C3CC4=C5C(=C(OC(C)=O)C=C4)OC(C1=O)C52CC[N+:1]3(C#N)[CH3:2].[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,152,"C1=C[CH:1]=[CH:2]C=C1.CC[C+:3]=O|((2, 1), 3)"
train,pmechdb_split_0,0,6584,"COC(=O)C(C(NC(=O)[NH:1]C)C1=CC=CC=C1)[C:2](C1=CC=CC=C1)=[OH+:3].O|(1, 2);((2, 3), 3)"
